US09416135B2
To a 2 L round-bottom flask containing (R)-tert-butyl 2-isopropyl-4-(4-(methoxycarbonyl)-5-(methylthio)-2-nitrophenyl)-3-oxopiperazine-1-carboxylate (crude 91.7 g, 0.196 mol) in CH2Cl2 (1 L) was added m-CPBA (84.6 g, 0.49 mmol, 2.5 eq). The mixture was stirred at rt overnight. Sat. Na2S2O3 was added slowly to quench the reaction. The mixture was extracted with CH2Cl2 (4×3 L). The combined organic layers were washed successively with Na2S2O3 solution (500 mL), NaHCO3 solution (500 mL) and brine, dried over anhydrous Na2SO4, filtered and concentrated under vacuum. The residue was purified by column chromatography on silica gel eluting with dichloromethane to give (R)-tert-butyl 2-isopropyl-4-(4-(methoxycarbonyl)-5-(methylsulfonyl)-2-nitrophenyl)-3-oxopiperazine-1-carboxylate (83.7 g, 85.4% yield) as a yellow solid. LC-MS MS (ESI) m/z 444.0 [M−56+H]+, 522.1 [M+Na]+. 1H NMR (CDCl3 300 MHz): δ 8.29 (s, 1H), 8.12 (s, 1H), 4.61-4.17 (m, 2H), 4.00-3.94 (m, 4H), 3.70-3.60 (m, 1H), 3.51-3.43 (m, 4H), 2.39-2.32 (m, 1H), 1.50 (s, 9H), 1.07 (d, J=6.9 Hz, 3H), 1.01 (d, J=6.9 Hz, 3H).

reactant | (R)-tert-butyl 2-isopropyl-4-(4-(methoxycarbonyl)-5-(methylthio)-2-nitrophenyl)-3-oxopiperazine-1-carboxylate | C(C)(C)[C@H]1N(CCN(C1=O)C1=C(C=C(C(=C1)SC)C(=O)OC)[N+](=O)[O-])C(=O)OC(C)(C)C | C21H29N3O7S
reactant | m-CPBA | 0.49 mmol, 84.6 g, 2.5 eq | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2S2O3 | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | CH2Cl2 | 1 L | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 2-isopropyl-4-(4-(methoxycarbonyl)-5-(methylsulfonyl)-2-nitrophenyl)-3-oxopiperazine-1-carboxylate | 83.7 g, 85.4% yield | C(C)(C)[C@H]1N(CCN(C1=O)C1=C(C=C(C(=C1)S(=O)(=O)C)C(=O)OC)[N+](=O)[O-])C(=O)OC(C)(C)C | C21H29N3O9S
